US06211234B1
A solution of ethyl (RS)-4-(2,3-dimethylphenyl)-4-hydroxybutanoate (3.66 g) in ethanol (100 mL) is treated with 1 N sodium hydroxide solution (15.5 mL). The reaction mixture is stirred at room temperature for 18 hours, evaporated and the residue azeotroped with toluene to give sodium (RS)-4-(2,3-dimethylphenyl)-4-hydroxy-butanoate (3.2 g) as a brown solid.

reactant | ethyl (RS)-4-(2,3-dimethylphenyl)-4-hydroxybutanoate | 3.66 g | CC1=C(C=CC=C1C)C(CCC(=O)OCC)O | C14H20O3
reactant | sodium hydroxide | 1 N, 15.5 mL | [OH-].[Na+]
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | sodium (RS)-4-(2,3-dimethylphenyl)-4-hydroxy-butanoate | 3.2 g | CC1=C(C=CC=C1C)C(CCC(=O)[O-])O.[Na+] | InChI=1S/C12H16O3.Na/c1-8-4-3-5-10(9(8)2)11(13)6-7-12(14)15;/h3-5,11,13H,6-7H2,1-2H3,(H,14,15);/q;+1/p-1
